US06852731B2
Ethyl 2-formyl-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate
A mixture of ethyl 2-formyl-3-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate (1.06 g, 3.99 mmol), potassium carbonate (826 mg, 5.98 mmol) and methyl iodide (1.24 mL, 19.9 mmol) in DMF (30 mL) was stirred at 50° C. for 24 hours. The mixture was diluted with water (60 mL), stirred with ice bath cooling for 5 minutes, and then filtered. The collected solid was washed with water and dried in vacuo, leaving a pale tan solid (764 mg, 69%).

reactant | ethyl 2-formyl-3-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | 3.99 mmol, 1.06 g | C(=O)C1=C(C=2NC=C(C(C2S1)=O)C(=O)OCC)C | C12H11NO4S
reactant | potassium carbonate | 5.98 mmol, 826 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 19.9 mmol, 1.24 mL | CI | CH3I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 60 mL | O | H2O
product | Ethyl 2-formyl-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | 764 mg, 69% | C(=O)C1=C(C=2N(C=C(C(C2S1)=O)C(=O)OCC)C)C | C13H13NO4S
